Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
anesthesia
 
Attending: ___
 
Chief Complaint:
Back pain s/p mechanical fall 
 
Major Surgical or Invasive Procedure:
___ Fitted for TLSO brace 

 
History of Present Illness:
Ms. ___ is a ___ yo woman with PMHx OA, rheumatoid arthritis (on 
chronic steroids), radiculopathy, CKD III, ? cognitive 
impairment and depression who presents on transfer from ___ 
after sustaining a fall.

Ms. ___ was in her usual state of health until evening of ___. 
She reports bending over to pick something up while walking from 
the kitchen to the bathroom and then falling on the ground. She 
describes a senasation of her knees giving out but denies 
preceding LOC or pre-syncope, denies bowel or bladder 
incontinence, denies nausea, diaphoresis, palpitations, CP, post 
fall confusion or amnesia. She fell on right elbow and denies 
head strike. She ambulates with a walker at home and had walker 
at her side when she fell.

At ___ she underwent Lumbar XR and then CT A/P which 
showed an acute compression fracture of L1 with extension into 
pedicles "at least on the right side," with associated diffuse 
disc bulging. Her main issue has been pain management. Per 
___ discharge summary patient has been in significant pain on 
regimen of morphine 3 mg IM Q4H PRN, lidocaine patch, oxycodone 
10 mg Q4H
PRN and tylenol ___ mg Q4H PRN.  Neurology service at ___
recommended transfer to spinal service at ___. Dr. 
___ case and recommend admission to medicine 
for pain control; based on imaging does not indication for 
surgical management. His team will see her when she gets here.

Other issues during her hospital stay have been ? 
choledocholithiasis and hypoxia. CT A/P obtained on ___ showed 
a distended gallbladder with multiple stones with a dilated 
common duct and mild dilatation of central intrahepatic ducts. 
She had no associated LFT abnormalities and a HIDA obtained on 
___ was normal. She also was noted to have a 2 L O2 
requirement for most of her hospital stay at ___. A CTA of 
her chest was obtained which showed no evidence of pulmonary 
embolism but showed mild diffuse interstitial changes and trace 
atelectasis. It appears her hypoxia resolved before transfer. 

On arrival to the floor, patient relays the above history.  She 
reports ___ back pain felt in the small of her lower back and 
diffuse "all over pain." Denies leg weakness, parasthesias. 
Denies current SOB, CP, palpitations, cough, leg weakness, 
abdominal pain. Her last bowel movement was 3 days ago, 
described as brown, non-bloody, non-melenic.  

REVIEW OF SYSTEMS:  10 point ROS reviewed and negative except as 
per HPI 
 
Past Medical History:
Severe RA on chronic steroids
Osteoporos
CKD 3
Depression
?Cognitive impairment
Radiculopathy
 
Social History:
___
Family History:
Mother: MI
Father: CAD 
Son: Healthy. Lives in ___.
 
Physical Exam:
=====================
ON ADMISSION 
=====================
VS: Temp 98.2 BP 152 / 85 HR  91 RR 18SaO2 92%RA  
GENERAL: Elderly woman in NAD. AAOx3  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Course crackles in lungs bilaterally. Otherwise no
wheezing, breathing comfortably without use of accessory muscles 

ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
Back: No obvious lesions or deformities. Point tenderness over 
L1
vertebral process.
NEURO: A&Ox3, moving all 4 extremities with purpose. ___ 
strength
hip flexion, knee flexion and extension. ___ strength UEs. 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

================
EXAM ON DISCHARGE 
==================
Vitals:  97.8 PO 139/79 HR 86 RR 18 96% Ra 
GENERAL: Elderly woman in NAD. AAOx3  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Course crackles in lungs bilaterally. Otherwise no
wheezing, breathing comfortably without use of accessory muscles 

ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
Back: No obvious lesions or deformities. Point tenderness over 
L1
vertebral process.
NEURO: A&Ox3, moving all 4 extremities with purpose. ___ 
strength
hip flexion, knee flexion and extension. ___ strength UEs. 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
====================
LABS ON ADMISSION 
====================
___ 08:15AM BLOOD WBC-6.8 RBC-4.17 Hgb-12.2 Hct-37.4 MCV-90 
MCH-29.3 MCHC-32.6 RDW-15.0 RDWSD-48.6* Plt ___
___ 10:50AM BLOOD Neuts-78* Bands-2 Lymphs-14* Monos-3* 
Eos-2 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-6.32* 
AbsLymp-1.19* AbsMono-0.24 AbsEos-0.16 AbsBaso-0.00*
___ 08:15AM BLOOD ___ PTT-31.1 ___
___ 08:15AM BLOOD ___ PTT-31.1 ___
___ 08:15AM BLOOD Glucose-101* UreaN-11 Creat-0.6 Na-144 
K-3.8 Cl-103 HCO3-30 AnGap-11
___ 08:15AM BLOOD ALT-28 AST-23 AlkPhos-117* TotBili-0.3
___ 08:15AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.9

==================
LABS ON DISCHARGE 
==================
___ 08:25AM BLOOD WBC-8.4 RBC-4.49 Hgb-13.4 Hct-40.6 MCV-90 
MCH-29.8 MCHC-33.0 RDW-15.6* RDWSD-50.0* Plt ___
___ 08:25AM BLOOD Glucose-106* UreaN-19 Creat-0.8 Na-144 
K-4.8 Cl-103 HCO3-27 AnGap-14

=====================
IMAGING AT ___
=====================

Lumbar spine x-ray. IMPRESSION: L1 compression fracture, 
indeterminant age.

CTA chest ___ 
IMPRESSION:
1. No evidence of pulmonary emboli.
2. Mild diffuse increased interstitial changes of the lungs with 
trace amount of atelectasis in lower lung fields bilaterally.
 
CT abdomen/pelvis ___
IMPRESSION:
1. Acute compression fracture of L1 that at least on the right 
side extends through the pedicles. The canal due to the diffuse 
disc bulging and fracture is 9 mm at that level.
2. Distended gallbladder with multiple stones with a dilated 
common duct and mild dilatation of central intrahepatic ducts. 
Please correlate to liver function tests.

Abdominal ultrasound ___
Conclusion:
1. Gallbladder dilatation, with calculi, some regional mild 
tenderness, no definite wall thickening. These findings could 
signify acute cholecystitis. Correlation with clinical findings; 
HIDA scan may be considered for clarification. 
2. Simple left kidney lower pole cyst.
3. Otherwise normal ultrasound survey of upper abdomen and 
retroperitoneum.

HIDA ___
After the IV injection of 3.1 mCi ___ technetium labeled 
Mebrofenin, anterior sequential acquisitions up to 60 minutes 
were performed.
 
Findings: There is prompt uptake and excretion of the biliary 
tracer.
The common duct is visualized within 12 minutes. Tracer reaches 
the
gallbladder after 16 minutes. There is no significant delay in 
tracer
passing into the duodenum.
 
Conclusion: Normal HIDA scan. No evidence for cystic or common 
duct
obstruction.

===============
IMAGING AT ___ 
================

MRI Spine ___
1. Acute L1 vertebral body fracture with approximately 50% loss 
of height and retropulsion causing mild canal narrowing without 
mass effect on the spinal cord.  Bilateral L1-L2 neural foramina 
are moderately narrowed. 
2. Low lying conus medullaris, terminating near the lower 
endplate of L3, 
without evidence of a thickened or fatty filum terminale or 
other tethering lesion. 
3. Advanced facet arthropathy from L3-L4 through L5-S1 with 
fluid in the facet joints.  Mild neural foraminal narrowing from 
L2-L3 through L5-S1. 
4. Thoracolumbar scoliosis, not fully assessed. 

CT Spine ___
1. Extensive L1 compression fracture with 7 mm of posterior 
displacement 
causing moderate spinal canal stenosis.  Moderate L1 height 
loss. 
2. Cholelithiasis.  Suggestion of tiny stone within common bile 
duct.  Dilated common bile duct, measures 1.1 cm.  Correlation 
with LFTs recommended to exclude obstruction. 
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with PMHx OA, rheumatoid arthritis (on 
chronic steroids), radiculopathy, CKD III, ? cognitive 
impairment and depression who presents on transfer from ___ 
after mechanical fall during which she sustained an L1 fracture.

# Mechanical fall with L1 compression fracture: Patient 
sustained a mechanical fall at home on ___. Patient has "balance 
issues" in past known to her PCP and ambulates with a walker at 
baseline. Nothing in history concerning for syncope vs seizure. 
Imaging at ___ showed an L1 compression fracture; films 
review by spine service both here and at ___ and ___ 
deemed not a surgical candidate. Patient has some pain on 
arrival here at ___ but appears improved compared to 
intractable pain described at ___. Upon arrival to ___, 
neurospine team was consulted and she underwent repeat imaging 
with CT and MRI that demonstrated Acute L1 vertebral body 
fracture with approximately 50% loss of height and retropulsion 
causing mild canal narrowing without mass effect on the spinal 
cord.  Bilateral L1-L2 neural foramina are moderately narrowed, 
low lying conus medullaris, terminating near the lower endplate 
of L3, without evidence of a thickened or fatty filum terminale 
or other tethering lesion and advanced facet arthropathy from 
L3-L4 through L5-S1 with fluid in the facet joints with mild 
neural foraminal narrowing from L2-L3 through L5-S1. She was 
fitted with a TLSO brace that should be worn when out of bed and 
log roll precautions should be instituted when in bed. TLSO 
brace to be worn until follow up with neurosurgery.  

# Hypoxemia: Initially on O2 at ___, weaned to room air 
upon arrival to ___. Likely in the setting of poor inspiration 
related to pain. With TLSO brace and pain control, improved to 
95-97% 

# Hepatobiliary: Distended gallbladder and dilated common bile 
duct were confirmed incidentally on imaging  at ___. No 
LFT abnormalities and normal HIDA. Seen by general surgery at ___ 
___ who determined no need for urgent intervention. Will 
follow up with general surgery once outpatient. 

# RBBB. EKG shows RBBB which was also present in ___ on review 
of ___ record. 

# RA. Patient's home prednisone 2.5 mg was increased to 5 mg at 
___, perhaps for attempt of pain control. Continue 
prednisone 5 mg for now, consider dose  reduction back to home 
dose with outpatient provider .

# Depression. Continue home sertraline. 

========================
TRANSITIONAL ISSSUES 
========================
- Follow up Neurosurgery on ___ with Spine Xray
- Follow up with general surgery; contacted PCP ___ to 
ensure she was scheduled with general surgery 
- Consider referral to interventional radiology for 
vertebroplasty if pain does not improve in one month. 
- Schedule PCP appointment upon discharge from rehab 
- Patient with choledocolithasis with CBD dilation but 
asymptomatic currently. HIDA at ___ negative. Should 
follow up with general surgery 
- TLSO Brace at all times when out of bed until neurosurgery 
appointment 
- Log roll precautions when moving in bed without brace 
- Full code 
- Point of contact is patient's son, in ___, 
telephone number  ___
- Weight: 126 kg 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 2.5 mg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Sertraline 200 mg PO DAILY 
5. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
hold if loose stools. discontinue once nacrotics stopped.   
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H Pain 
hold for RR< 12 and sedation.  
RX *oxycodone 5 mg 1 tablet(s) by mouth every six hours Disp 
#*12 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
Use if patient has not had BM in ___ days   
5.  Senna 17.2 mg PO BID 
hold if loose stools. discontinue once nacrotics stopped.   
6.  PredniSONE 5 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Sertraline 200 mg PO DAILY  
9.  Simvastatin 10 mg PO QPM  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L1 Compression Fracture 
Asymptomatic cholelithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the ___ in ___ because you 
had a fall. 

WHAT WE DID: 
- You had imaging of your spine called MRI and CT that showed 
you had an L1 compression fracture. 
- You were fitted with a TLSO brace. YOU SHOULD WEAR THIS BRACE 
ANYTIME YOU ARE NOT IN BED. You do not have to wear the brace 
when you are in bed 
- You were seen by our neurosurgery team. They would like you 
see them at the appointment listed below. You will need an X-Ray 
before that appointment which is also scheduled for you. 
- It was noted that you have gallstones. There is nothing to do 
for this now. You should follow up with a general surgeon as 
scheduled below. 

NEXT STEPS: 
- TLSO brace when moving out of bed. YOU RISK PARAYLSIS IF YOU 
MOVE AROUND OUT OF BED WITHOUT YOUR TLSO BRACE 
- Attend your neurosurgery appointment 
- Attend your general surgery appointment 
- Call the doctor if you have the following symptoms: incomplete 
emptying of your bladder, if you lose control of your bowels, 
numbness and tingling in your legs, worsening back pain. 
- You should also call your doctor if you have fevers, chills, 
abdominal pain, diarrhea or constipation. 

NEXT STEPS: 
- Attend your neurosurgery appointment 
- Schedule appointment with your primary care doctor 
- You should see a general surgeon
- Wear TLSO brace when out of bed   

It was a pleasure participating in your care 
___ team 
 
Followup Instructions:
___